US07786114B2
1-{3-[3-(4-Chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-5,6-dimethoxypyrrolo[3,2-b]pyridin-1-yl]propyl}piperidin-4-ol can be prepared as in example 5, stage 5(d), but starting with 0.368 g of 1-(3-{3-[4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxypyrrolo[3,2-b]pyridin-1-yl}propyl)-piperidin-4-ol and 0.857 g of potassium hydroxide in 25 cm3 of methanol. 0.188 g of 2-(1-{3-[3-(4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-5,6-dimethoxypyrrolo[3,2-b]pyridin-1-yl]propyl}piperidin-4-yl)ethanol is thus obtained with the following characteristics:

reactant | 1-{3-[3-(4-Chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-5,6-dimethoxypyrrolo[3,2-b]pyridin-1-yl]propyl}piperidin-4-ol | ClC1=C2C(=NC=C1)NC(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCN1CCC(CC1)O | C24H28ClN5O3
reactant | 1-(3-{3-[4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxypyrrolo[3,2-b]pyridin-1-yl}propyl)-piperidin-4-ol | 0.368 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCN1CCC(CC1)O)S(=O)(=O)C1=CC=C(C=C1)C | C31H34ClN5O5S
reactant | potassium hydroxide | 0.857 g | [OH-].[K+]
solvent | methanol | 25 cm3 | CO | CH4O
product | 2-(1-{3-[3-(4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-5,6-dimethoxypyrrolo[3,2-b]pyridin-1-yl]propyl}piperidin-4-yl)ethanol | 0.188 g | ClC1=C2C(=NC=C1)NC(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCN1CCC(CC1)CCO | C26H32ClN5O3
